US04950674
1-Chloro-3-(4-isopropylphenoxy)propane
A mixture of 27.4 g (0.2 mole) of p-isopropylphenol, 63 g (0.4 mole) of 1-bromo-3-chloropropane and 82.9 g (0.6 mole) of anhydrous potassium carbonate in 1 liter of acetone was heated at reflux for 24 hr. The reaction mixture was cooled, filtered and filtrate concentrated. The residue was dissolved in 200 ml of benzene and treated with potassium hydroxide pellets to remove excess starting phenol. The mixture was stirred in ambient temperature for 0.5 hr, filtered through Celite® and the filtrate concentrated to give 36.4 g (87% yield) of the title compound as an oil.

reactant | p-isopropylphenol | 0.2 mole, 27.4 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | 1-bromo-3-chloropropane | 0.4 mole, 63 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.6 mole, 82.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | 1-Chloro-3-(4-isopropylphenoxy)propane | 36.4 g, 87% yield | ClCCCOC1=CC=C(C=C1)C(C)C | C12H17ClO
